US05955480
Step D: 4-Benzoyl-2-(4-chlorophenyl)-5-(4-pyridyl)imidazole
A solution of 4-benzoyl-2-(4-chlorophenyl)-1-methoxymethyl-5-(4-pyridyl)imidazole (10 mg, 0.025 mmol) in methanol (0.8 mL) containing 6 N hydrochloric acid (21 μL) at 40° C. was stirred overnight. The reaction was quenched by the addition of 5% sodium bicarbonate solution and the mixture was extracted with ethyl acetate (2 times). The combined extracts were successively washed with water and saturated salt solution and dried over anhydrous sodium sulfate. The solution was filtered and the solvent removed by rotoevaporation. The residue was purified by flash column chromatography on silica gel eluted with 0-3% methanol in methylene chloride to yield the title compound as a orange glass (4 mg, 40% yield), mass spectrum (CI) m/e=360 (M+1)+.

reactant | 4-benzoyl-2-(4-chlorophenyl)-1-methoxymethyl-5-(4-pyridyl)imidazole | 0.025 mmol, 10 mg | C(C1=CC=CC=C1)(=O)C=1N=C(N(C1C1=CC=NC=C1)COC)C1=CC=C(C=C1)Cl | C23H18ClN3O2
reactant | hydrochloric acid | 6 N, 21 μL | Cl | ClH
solvent | methanol | 0.8 mL | CO | CH4O
product | 4-Benzoyl-2-(4-chlorophenyl)-5-(4-pyridyl)imidazole | 4 mg, 40% yield | C(C1=CC=CC=C1)(=O)C=1N=C(NC1C1=CC=NC=C1)C1=CC=C(C=C1)Cl | C21H14ClN3O
